US07696231B2
a) Preparation of 4-({[4-(methoxycarbonyl)benzoyl]amino}methyl)benzoic acid (Compound C)
Into a solution of 4-(aminomethyl)amino benzoic acid (5.0 g, 33.1 mmol) in anhydrous THF (200 mL) were added DIEA (12.45 mL, 72.7 mmol) and tert-butyl dimethyl chlorosilane (5.48 g, 36.4 mmol). The resulting mixture was allowed to stir at rt for 1 hr and methyl 4-(chlorocarbonyl)benzoate (7.23 g, 36.4 mmol) was added neat. After overnight stirring at rt, the reaction mixture was quenched with HCl (0.1N, 250 mL) until pH=1. Extraction with EtOAc/THF (400 mL), drying over MgSO4, evaporation under vacuo gave the title compound as a white powder (7.0 g, 67%).

reactant | 4-(aminomethyl)amino benzoic acid | 33.1 mmol, 5.0 g | NCNC1=CC=C(C(=O)O)C=C1 | C8H10N2O2
reactant | DIEA | 72.7 mmol, 12.45 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl dimethyl chlorosilane | 36.4 mmol, 5.48 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | methyl 4-(chlorocarbonyl)benzoate | 36.4 mmol, 7.23 g | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-({[4-(methoxycarbonyl)benzoyl]amino}methyl)benzoic acid | 7.0 g, 67% | COC(=O)C1=CC=C(C(=O)NCC2=CC=C(C(=O)O)C=C2)C=C1 | C17H15NO5
